data/mechanism_extracts/AsianJOC/10.1002_ajoc.202200531.json
{"doi": "10.1002_ajoc.202200531", "journal": "AsianJOC", "is_review": false, "rxn_class_summary": "Electrochemical N-centered radical addition/semipinacol rearrangement of alkenyl cyclobutanols with sulfonimides to give beta-amino cyclic ketones (ring-expanded cyclopentanones).", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic oxidation of dibenzenesulfonimide (via PCET with n-Bu4NOAc base) generates an N-centered sulfonimidyl radical; a second anodic SET oxidizes the C-radical adduct to a carbocation that triggers 1,2-alkyl shift.", "key_intermediates": [{"name": "sulfonimidyl N-centered radical (PhO2S)2N•", "smiles": "O=S(=O)(c1ccccc1)N([S](=O)(=O)c2ccccc2)[*]", "role": "reactive"}, {"name": "carbon-centered radical from addition to alkene (beta-amino tertiary C-radical bearing OTMS cyclobutane)", "smiles": null, "role": "transient"}, {"name": "beta-amino tertiary carbocation (OTMS cyclobutane substituted)", "smiles": null, "role": "transient"}, {"name": "beta-amino cyclopentanone product (after 1,2-alkyl shift / semipinacol)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the sulfonimide N-H via PCET (with n-Bu4NOAc as base) to give an N-centered radical I; I adds to the alkene of the alkenyl cyclobutanol giving C-radical II; anodic SET oxidizes II to cation III, which undergoes 1,2-alkyl (ring) migration (semipinacol) with loss of TMS to give the beta-amino cyclopentanone; protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace product observed; reaction inhibited, supporting radical intermediates."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "0% product; reaction completely inhibited."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "intermediate_trap", "observation": "Coupling product 21 isolated in 82% yield, consistent with trapping of N-centered sulfonimidyl radical."}, {"name": "cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks at 2.22 V (alkenyl cyclobutanol 1a) and 1.68 V (sulfonimide 2a); sulfonimide is oxidized preferentially."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Mechanism proposed by analogy to prior N-centered radical addition/semipinacol work (Li/Zhang with NFSI, Xiao with aminopyridinium); electrochemistry replaces stoichiometric external oxidants. CV indicates sulfonimide (1.68 V) is oxidized before the alkene (2.22 V), supporting initial N-H oxidation rather than alkene radical cation formation."}
